US07612114B2
6-{2-{Ethyl[3-fluoro-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from N-ethyl-3-fluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzamide according to an analogous synthetic method to Example 337, ethyl[3-fluoro-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (123 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (108 mg).

reactant | N-ethyl-3-fluoro-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzamide | C(C)N(C(C1=CC(=C(C=C1)OC1CC2CCC(C1)N2C)F)=O)C2=C(C=CC(=C2)OC)C2CC1=CC=C(C=C1CC2)OC | C35H41FN2O4
reactant | ethyl[3-fluoro-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 123 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC1=CC(=C(C=C1)OC1CC2CCC(C1)N2C)F | C35H43FN2O3
product | 6-{2-{Ethyl[3-fluoro-4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 108 mg | C(C)N(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OC1CC2CCC(C1)N2C)F | C33H39FN2O3
